US07312233B2
4-Cyclopropyl-2-methylbenzoic acid
A solution of lithium hydroxide (90 mg, 1.97 mmol) in H2O (1 mL) was added in one portion to a stirred solution of methyl 4-cyclopropyl-2-methylbenzoate (125 mg, 0.66 mmol) in THF (2 mL) and MeOH (2 mL). The mixture was stirred at room temperature for 30 min then at 50° C. for 2 hours. A further aliquot of lithium hydroxide (90 mg) in H2O (1 mL) and MeOH (1 mL) was added, and the mixture was stirred at 50° C. overnight. The organics were removed under vacuum and H2O (20 mL) was added. The mixture was adjusted to pH 4-5 by the use of 1N HCl (a precipitate emerges) and then extracted with EtOAc (2×20 mL). The combined organic extracts were dried (Na2SO4), filtered and the filtrate concentrated under vacuum to give the product (110 mg, 95%) as a solid. 1H NMR (CDCl3; 400 MHz) δ 7.98 (1H, d), 6.96-6.92 (2H, m), 2.63 (3H, s), 1.94-1.87 (1H, m), 1.07-1.01 (2H, m), 0.80-0.76 (2H, m).

reactant | lithium hydroxide | 1.97 mmol, 90 mg | [OH-].[Li+]
reactant | methyl 4-cyclopropyl-2-methylbenzoate | 0.66 mmol, 125 mg | C1(CC1)C1=CC(=C(C(=O)OC)C=C1)C | C12H14O2
reactant | lithium hydroxide | 90 mg | [OH-].[Li+]
solvent | H2O | 1 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
product | 4-Cyclopropyl-2-methylbenzoic acid | 110 mg, 95% | C1(CC1)C1=CC(=C(C(=O)O)C=C1)C | C11H12O2
